US05767131
A solution of 7-azido-2-[(4-nitrophenyl)methylene]-3-oxoheptanoic acid 2-cyanoethyl ester (1.12 g, 3.00 mmol) and 4-amino-3-penten-2-one (330 mg, 3.30 mmol) in 20 ml of EtOH was refluxed for 48 hrs. After the EtOH was removed in vacuo, the residue was dissolved in 150 ml of CHCl3, washed with water (2×100 ml) and dried over Na2SO4. After filtration and evaporation of solvent, the product was purified by chromatography (SiO2, CHCl3 :MeOH=5:95). 5-Acetyl-2-(4-azidobutyl)-3-(2-cyanoethoxy)carbonyl-1,4-dihydro-6-methyl-4-(4-nitrophenyl)pyridine was obtain as a yellow oil (1.05 g, 77% yield).

reactant | 7-azido-2-[(4-nitrophenyl)methylene]-3-oxoheptanoic acid 2-cyanoethyl ester | 3.00 mmol, 1.12 g | C(#N)CCOC(C(C(CCCCN=[N+]=[N-])=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H17N5O5
reactant | 4-amino-3-penten-2-one | 3.30 mmol, 330 mg | NC(=CC(C)=O)C | C5H9NO
solvent | EtOH | 20 ml | CCO | C2H6O
product | 5-Acetyl-2-(4-azidobutyl)-3-(2-cyanoethoxy)carbonyl-1,4-dihydro-6-methyl-4-(4-nitrophenyl)pyridine | C(C)(=O)C=1C(C(=C(NC1C)CCCCN=[N+]=[N-])C(=O)OCCC#N)C1=CC=C(C=C1)[N+](=O)[O-] | C22H24N6O5
